US05705499
a) 2-(4-methoxybenzylamino)-5,11-dihydro-11-ethyl-8-[2-(4-pyridyl)ethyl]-5-methyl-6-H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one
A mixture of 2-chloro-5,11-dihydro-11-ethyl-8-[2-(4-pyridyl)ethyl]-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one (0.285 g, 0.7 mmol) and 4-methoxybenzylamine (0.23 mL, 1.8 mmol) in 4 mL of xylenes was heated at 150° C. in a sealed tube. After 24 hours, additional amine (0.23 mL, 1.8 mmol) was added and the reaction temperature was increased to 250° C. Heat was removed after 2d, and the reaction mixture was washed with saturated aqueous ammonium chloride to remove excess amine. The organic layer was dried (magnesium sulfate) and concentrated. Purification by flash chromatography (elution with methanol-dichloromethane) afforded the title compound (0.09 g, 26%).

reactant | 2-chloro-5,11-dihydro-11-ethyl-8-[2-(4-pyridyl)ethyl]-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | 0.7 mmol, 0.285 g | ClC=1C=CC=2N(C(C3=C(N(C2N1)CC)N=CC(=C3)CCC3=CC=NC=C3)=O)C | C21H20ClN5O
reactant | 4-methoxybenzylamine | 1.8 mmol, 0.23 mL | COC1=CC=C(CN)C=C1 | C8H11NO
product | 2-(4-methoxybenzylamino)-5,11-dihydro-11-ethyl-8-[2-(4-pyridyl)ethyl]-5-methyl-6-H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | 0.09 g, 26% | COC1=CC=C(CNC=2C=CC=3N(C(C4=C(N(C3N2)CC)N=CC(=C4)CCC4=CC=NC=C4)=O)C)C=C1 | C29H30N6O2
